US08183380B2
rac-1-[2-(6-Fluoro-indan-1-ylamino)-quinolin-6-yl]-3-isopropyl-urea
The title compound was prepared in accordance with the general method described in example 3 from rac-N2-(6-fluoro-indan-1-yl)-quinoline-2,6-diamine and isopropyl isocyanate; MS: m/e=379.4 (M+H+).

reactant | rac-N2-(6-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC1=CC=C2CCC(C2=C1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | rac-1-[2-(6-Fluoro-indan-1-ylamino)-quinolin-6-yl]-3-isopropyl-urea | FC1=CC=C2CCC(C2=C1)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC(C)C | C22H23FN4O
